********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*Nov 27, 2017
*ECN S17-1762, Rev. A
*File Name: SiR638ADP_PS.txt and SiR638ADP_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT SiR638ADP D G S 
M1 3 GX S S NMOS W= 19640000u L= 0.30u 
M2 S GX S D PMOS W= 19640000u L= 0.10u 
R1 D 3 6.390e-04 TC=4.310e-03,1.176e-05
CGS GX S 5.524e-09 
CGD GX D 1.000e-13 
RG G GY 0.88
RTCV 100 S 1e6 TC=1.112e-05,-1.415e-07
ETCV GX GY 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
DBD S D DBD 19640000u 
************************************************** 
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 5e-8 
+ RS = 0 KP = 1.975e-05 NSUB = 9.891e+16 
+ KAPPA = 3.777e-02 NFS = 1.050e+11 
+ LD = 0 IS = 0 TPG = 1    )
************************************************** 
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 5e-8 
+NSUB = 2.204e+16 IS = 0 TPG = -1    )
************************************************** 
.MODEL DBD D ( 
+FC = 0.1 TT = 9.799e-08 T_measured = 25 BV = 41
+RS = 1.281e-02 N = 1.085e+00 IS = 2.915e-12 
+EG = 1.079e+00 XTI = 3.395e+00 TRS1 = 1.000e-05
+CJO = 3.689e-10 VJ = 5.570e+00 M = 1.000e+00 ) 
.ENDS 
